US09328117B2
To a solution of compound 1-ethoxycarbonylmethylene-2-(6-chloro-3-pyridazinyl) hydrazine (11.4 g, 0.05 mol) and sodium acetate (11 g, 0.05 mol) in 50 mL of HOAc, bromine (8 g, 0.05 mol) in HOAc was added dropwise during 20 min. Stirring was continued for 3 h, the mixture was diluted with water (1 L), the precipitated crystals were filtered off, washed with water to give product ethyl 2-bromo-2-(2-(6-chloropyridazin-3-yl)hydrazono)acetate as a yellow solid (10 g, 66%). 1H NMR (300 MHz, d6-DMSO): δ 9.33 (br, 1H), 7.69-7.66 (d, J=9.0 Hz, 1H), 7.50-7.47 (d, J=9.0 Hz, 1H), 4.44-4.37 (q, 2H), 1.43-1.39 (t, 3H).

reactant | 1-ethoxycarbonylmethylene-2-(6-chloro-3-pyridazinyl) hydrazine | 0.05 mol, 11.4 g | C(C)OC(=O)C=NNC=1N=NC(=CC1)Cl | C8H9ClN4O2
reactant | sodium acetate | 0.05 mol, 11 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.05 mol, 8 g | BrBr | Br2
solvent | HOAc | 50 mL | CC(=O)O | C2H4O2
solvent | water | 1 L | O | H2O
product | ethyl 2-bromo-2-(2-(6-chloropyridazin-3-yl)hydrazono)acetate | 10 g, 66% | BrC(C(=O)OCC)=NNC=1N=NC(=CC1)Cl | C8H8BrClN4O2
